US04167574
To 4.5 parts of sulfinyl chloride is added dropwise a mixture of 13 parts of N-[1-(2-hydroxy-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide hydrochloride and 260 parts of dichloromethane. Upon completion, the whole is stirred and refluxed for a few hours. The reaction mixture is cooled and the solvent is evaporated. The residue is taken up in 2-propanone. The mixture is filtered and the filtrate is treated with activated charcoal. The latter is filtered off and the filtrate is evaporated. The residue is crystallized from a mixture of 2-propanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 9.2 parts (61.7%) of N-[1-(2-chloro-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide monohydrochloride; mp. 145.3° C.

reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-[1-(2-hydroxy-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide hydrochloride | Cl.OC(CN1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[1-(2-chloro-2-phenylethyl)-4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide monohydrochloride | 61.7% | Cl.ClC(CN1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H31ClN2O2.ClH/c1-3-23(28)27(21-12-8-5-9-13-21)24(19-29-2)14-16-26(17-15-24)18-22(25)20-10-6-4-7-11-20;/h4-13,22H,3,14-19H2,1-2H3;1H
